US09302991B2
<Step-1>: methyl 2-(2-cyclopropylacetamido)-6-methylisonicotinate
The title compound is prepared in 67% yield (316 mg) from methyl 2-chloro-6-methylisonicotinate (350 mg, 1.89 mmol) and 2-cyclopropylacetamide (243 mg, 2.45 mmol) by the similar manner in Step-1 of Carboxylic acid-4.

reactant | methyl 2-chloro-6-methylisonicotinate | 1.89 mmol, 350 mg | ClC=1C=C(C(=O)OC)C=C(N1)C | C8H8ClNO2
reactant | 2-cyclopropylacetamide | 2.45 mmol, 243 mg | C1(CC1)CC(=O)N | C5H9NO
product | methyl 2-(2-cyclopropylacetamido)-6-methylisonicotinate | 67% yield | C1(CC1)CC(=O)NC=1C=C(C(=O)OC)C=C(N1)C | C13H16N2O3
